US06992087B2
Preparation of isopropyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate
Following the procedure for the preparation of N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine but substituting isopropyl chloroformate and making non-critical variations provided the title compound as an oil: 1H NMR (400 MHz, CDCl3) δ) 7.49, 7.34-7.26, 5.22, 4.95, 4.75, 4.08, 3.96, 3.73, 3.60, 3.50, 3.38, 3.25, 2.71, 2.47, 1.32-1.25, 1.16; HRMS (FAB) calcd for C24H32Cl2N4O3+H 495.1929, found 495.1909. Anal. Calcd for C24H32Cl2N4O3: C, 58.18; H, 6.51; N, 11.31. Found: C, 58.43; H, 6.64; N, 11.25.

reactant | N-[(cis)-1-acetyl-4-ethoxypyrrolidin-3-yl]-5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-amine | C(C)(=O)N1C[C@H]([C@H](C1)OCC)NC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)Cl)Cl)CC | C22H28Cl2N4O2
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
product | isopropyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-ethoxypyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OC(C)C)CC | C24H32Cl2N4O3
